US06235731B1
While 26.48 g (121.3 mM) of 5-thia-1,8b-diazaacenaphthylene-4-carboxylic acid and 15.4 g (133 mM) of N-hydroxysuccinimide were stirred together in 250 ml of acetonitrile, 25.6 g (133 mM) of 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride was added and the mixture was stirred at room temperature for 6 hours. To this reaction mixture was added 20.3 ml (146 mM) of triethylamine as well as 27.3 g (127 mM) of 1-(tert-butoxycarbonyl)piperidin-4-ylmethylamine and the mixture was stirred at room temperature overnight. This reaction mixture was poured in aqueous solution of sodium hydrogen carbonate and extracted with 3 portions of ethyl acetate. The organic layers were pooled and dried over MgSO4 and the solvent was distilled off under reduced pressure. The residue was subjected to silica gel column chromatography (ethyl acetate to ethyl acetate-methanol=9:1) to provide crude N-[1-(tert-butoxycarbonyl)piperidin-4-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide. To this crude N-[1-(tert-butoxycarbonyl)piperidin-4-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide was added 30 ml of concentrated hydrochloric acid and the mixture was stirred at room temperature for one hour. To this reaction mixture was added ethanol, followed by stirring, and the resulting precipitate was recovered by filtration and rinsed serially with ethanol and diethyl ether to provide the title compound.

reactant | 5-thia-1,8b-diazaacenaphthylene-4-carboxylic acid | 121.3 mM, 26.48 g | N=1C=C2C=C(SC3=CC=CC1N23)C(=O)O | C10H6N2O2S
reactant | N-hydroxysuccinimide | 133 mM, 15.4 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 133 mM, 25.6 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-(tert-butoxycarbonyl)piperidin-4-ylmethylamine | 127 mM, 27.3 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CN | C11H22N2O2
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
solvent | triethylamine | 146 mM, 20.3 ml | C(C)N(CC)CC | C6H15N
product | N-[1-(tert-butoxycarbonyl)piperidin-4-ylmethyl]-5-thia-1,8b-diazaacenaphthylene-4-carboxamide | C(C)(C)(C)OC(=O)N1CCC(CC1)CNC(=O)C1=CC2=CN=C3C=CC=C(S1)N32 | C21H26N4O3S
